US04705854
A mixture of 2-chlorophenothiazine (70.12 g), copper (I) cyanide (32.24 g) and N-methylpyrrolidinone (150 ml) were heated at reflux for 23 hours. The reaction mixture was then quenched with water (900 ml) and sodium cyanide (29.4 g) added. After heating the mixture to 30°-40° C. the black gummy product was extracted with ethyl acetate (3×250 ml). The combined ethyl acetate layers were then washed with water (2×300 ml); some brine being used to break an emulsion which formed durng each wash. Then, after drying the solution and subsequent rotary evaporation, a brown yellow solid product of crude 2-cyanophenothiazine (51 g) was obtained. This material was purified by heating it at reflux as a solution in ethanol with added activated charcoal. After filtering the hot solution thrugh Hyflo it was rotary evaporated to near dryness which resulted in a slurry of purified yellow product which was filtered off and dried (33.3 g).

reactant | 2-chlorophenothiazine | 70.12 g | ClC1=CC=2NC3=CC=CC=C3SC2C=C1 | C12H8ClNS
reactant | copper (I) cyanide | 32.24 g | [Cu]C#N
solvent | N-methylpyrrolidinone | 150 ml | CN1C(CCC1)=O | C5H9NO
product | 2-cyanophenothiazine | 51 g | C(#N)C1=CC=2NC3=CC=CC=C3SC2C=C1 | C13H8N2S
